US07767664B2
5-[(1,3-Dimethyl-4-nitro-1H-pyrazol-5-yl)hydrazono]-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[b]azepin-2-one (Compound 4.2)
1,3-Dimethyl-4-nitro-1H-pyrazol-5-yl-hydrazine (0.073 g, 0.4 mmol) was added to a suspension of 7,8-dimethoxy-1H-[1]benzazepin-2,5(3H, 4H)-dione (0.100 g, 0.4 mmol) in acetic acid (5 ml) with stirring under argon. The mixture was heated at 70° C. for 2 days, cooled and water (5 ml) added. The precipitate was then filtered off to give the title compound as a yellow solid (0.019 g, yield 11.5%); 1H-NMR (DMSO-d6, 300 MHz): δ (ppm)=12.8 (v br s; 1 H), 9.59 (s; 1H), 7.2 (s; 1H), 6.63 (s; 1H), 3.96 (s; 3H), 3.75-3.77 (s, 6H), 3.05 (br t, 2H), 2.57 (br t, 2H), 2.35 (s, 3H).

reactant | 1,3-Dimethyl-4-nitro-1H-pyrazol-5-yl-hydrazine | 0.4 mmol, 0.073 g | CN1N=C(C(=C1NN)[N+](=O)[O-])C | C5H9N5O2
reactant | 7,8-dimethoxy-1H-[1]benzazepin-2,5(3H, 4H)-dione | 0.4 mmol, 0.100 g | COC=1C(=CC2=C(C(CCC(N2)=O)=O)C1)OC | C12H13NO4
reactant | water | 5 ml | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-[(1,3-Dimethyl-4-nitro-1H-pyrazol-5-yl)hydrazono]-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[b]azepin-2-one | 0.019 g, yield 11.5% | CN1N=C(C(=C1NN=C1C2=C(NC(CC1)=O)C=C(C(=C2)OC)OC)[N+](=O)[O-])C | C17H20N6O5
